US04486597
A solution of 8.4 g of 3,4-dimethoxybenzaldehyde, 11.4 g of 2-carboxymalonanilic acid, and 4.3 g of piperidine in 50 ml of benzene is heated under reflux for 3 hours with the removal of water as formed during the reaction period. After the completion of the reaction, the reaction mixture is cooled and the precipitated crystals are collected by filtration and dried to obtain 19.7 g of piperidinium N-(3,4-dimethoxycinnamoyl)anthranilate (95.8% yield), m.p. 154°-156° C. The compound structure is confirmed by elemental analysis, and by IR and NMR spectroscopy.

reactant | 3,4-dimethoxybenzaldehyde | 8.4 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | 2-carboxymalonanilic acid | 11.4 g | C(=O)(O)C(C(=O)O)C(=O)NC1=CC=CC=C1 | C10H9NO5
reactant | piperidine | 4.3 g | N1CCCCC1 | C5H11N
reactant | water | O | H2O
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | piperidinium N-(3,4-dimethoxycinnamoyl)anthranilate | 19.7 g, 95.8% yield | COC=1C=C(C=CC(=O)NC=2C(C(=O)[O-])=CC=CC2)C=CC1OC.[NH2+]1CCCCC1 | InChI=1S/C18H17NO5.C5H11N/c1-23-15-9-7-12(11-16(15)24-2)8-10-17(20)19-14-6-4-3-5-13(14)18(21)22;1-2-4-6-5-3-1/h3-11H,1-2H3,(H,19,20)(H,21,22);6H,1-5H2
